US08304557B2
1,3-dimethyl-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide
A mixture of N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]amino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (882 mg, 1.65 mmol), trifluoroacetic anhydride (6 mL) and dichloromethane (8 mL) was stirred at room temperature for 2.5 hr. The reaction solution was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=70/30→0/100) to give the title compound (338 mg, 45%) as a white solid.

reactant | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]amino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.65 mmol, 882 mg | NC(CN1C=C(C=CC1NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C)=O | C26H28N6O5S
reactant | trifluoroacetic anhydride | 6 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 1,3-dimethyl-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide | 338 mg, 45% | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(C1)C=C(N2)NC(C(F)(F)F)=O)C | C21H17F3N6O3
